US05286905
0.94 Gram (3.6 mmol) of triphenylphosphine and 1.49 g (4.5 mmol) of carbon tetrabromide were added to a solution prepared by dissolving 0.54 g (3 mmol) of 1-methyl-2-(3,5-dimethylphenoxy)ethanol in 10 ml of methylene chloride, and the resultant mixture was stirred at room temperature for 30 minutes. After the reaction, the solid was separated by filtration, and the remaining methylene chloride solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5:1 (v/v)) to give 0.54 g of 1-(3,5-dimethylphenoxy)-2-bromopropane (yield 74.7%).

reactant | triphenylphosphine | 3.6 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 4.5 mmol, 1.49 g | C(Br)(Br)(Br)Br | CBr4
reactant | 1-methyl-2-(3,5-dimethylphenoxy)ethanol | 3 mmol, 0.54 g | CC(COC1=CC(=CC(=C1)C)C)O | C11H16O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,5-dimethylphenoxy)-2-bromopropane | 0.54 g, yield 74.7% | CC=1C=C(OCC(C)Br)C=C(C1)C | C11H15BrO
